US05670332
Synthesis of Z-Phe-Leu-NH2
30 mg (0.1 mole) Z-Phe-OH and 13 mg (0.1 mmole) Leu-NH2 are placed into an unsealed glass container having a 12 mm inner diameter and stirred with a spatula. Then, a mixture of 161 mg (0.5 mole) Na2 SO4.10H2O and 5 mg thermolysine is added, the glass container is closed and subjected to ultrasonic waves in an ultrasound bath at 40° C. After 20 minutes the reaction is stopped with 0.4 ml 5% (v/v) aqueous trifluoroacetic acid. The analytical evaluation is carried out by means of HPLC and comparison with an authentic specimen.

reactant | Z-Phe-OH | 0.1 mole, 30 mg | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H17NO4
reactant | Leu-NH2 | 0.1 mmole, 13 mg | N[C@@H](CC(C)C)C(=O)N | C6H14N2O
reactant | trifluoroacetic acid | 0.4 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Z-Phe-Leu-NH2 | N([C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N)C(=O)OCC1=CC=CC=C1 | C23H29N3O4
